US06818774B2
2-[6-(3-Fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-propionic acid ethyl ester
A mixture of 6-(3-fluoro-benzyloxy)-3,4-dihydro-2H-isoquinolin-1-one (0.100 g, 0.369 mmol) and sodium hydride (55%, 22 mg, 0.51 mmol) in N,N′-dimethylformamide was heated at 70° C. for 1 h. Then ethyl-2-bromopropionate (0.072 mL, 0.55 mmol) was added and the resulting mixture was heated at 80° C. overnight. After cooling to room temperature, water was added and the reaction was extracted with dichloromethane. After drying of the organic layer with MgSO4, filtration and evaporation, the residue was purified by chromatography (SiO2, hexane/ethyl acetate 1:0 to 3:2 v:v gradient) to give the title compound as a white solid (0.095 g, 69%). MS: m/e=372.3 (M+H+).

reactant | 6-(3-fluoro-benzyloxy)-3,4-dihydro-2H-isoquinolin-1-one | 0.369 mmol, 0.100 g | FC=1C=C(COC=2C=C3CCNC(C3=CC2)=O)C=CC1 | C16H14FNO2
reactant | sodium hydride | 0.51 mmol, 22 mg | [H-].[Na+]
reactant | ethyl-2-bromopropionate | 0.55 mmol, 0.072 mL | C(C)OC(C(C)Br)=O | C5H9BrO2
reactant | water | O | H2O
solvent | N,N′-dimethylformamide | CN(C)C=O | C3H7NO
product | 2-[6-(3-Fluoro-benzyloxy)-1-oxo-3,4-dihydro-1H-isoquinolin-2-yl]-propionic acid ethyl ester | 0.095 g, 69% | C(C)OC(C(C)N1C(C2=CC=C(C=C2CC1)OCC1=CC(=CC=C1)F)=O)=O | C21H22FNO4
